US07259262B2
ii) 3-(4-Pentafluorosulfanyl-phenyl)-acrylamide
To a suspension of 5.70 g (20.8 mmol) 3-(4-pentafluorosulfanyl-phenyl)-acrylic acid in 30 ml tetrahydrofuran and 0.21 ml N,N-dimethyl formamide a solution of 3.47 ml (27.4 mmol) oxalyl chloride in 5.0 ml tetrahydrofuran was added dropwise at 0° C. within 10 min. Stirring was continued at 0-5° C. for 30 min. and 3 h at room temperature thereafter. The resulting solution was cooled to 0-5° C. again and then added within 15 min. to mixture of 300 ml ice and 120 ml of a 25% aqueous ammonia solution. The precipitated amide was collected, washed with water and n-heptane and dried at 40° C. in vacuo. Yield 5.17 g (91%) 3-(4-pentafluorosulfanyl-phenyl)-acrylamide.

reactant | 3-(4-pentafluorosulfanyl-phenyl)-acrylic acid | 20.8 mmol, 5.70 g | FS(C1=CC=C(C=C1)C=CC(=O)O)(F)(F)(F)F | C9H7F5O2S
reactant | oxalyl chloride | 27.4 mmol, 3.47 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | ammonia | N | H3N
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | N,N-dimethyl formamide | 0.21 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 5.0 ml | O1CCCC1 | C4H8O
product | 3-(4-Pentafluorosulfanyl-phenyl)-acrylamide | FS(C1=CC=C(C=C1)C=CC(=O)N)(F)(F)(F)F | C9H8F5NOS
